US05565479
2-(4-Imidazolylmethyl)-4H-[1]benzothiopyrano[4,3-d]-thiazole
Starting compounds: 3-bromothiochroman-4-one, 4-imidazolyl thioacetamide hydrochloride

reactant | 3-bromothiochroman-4-one | BrC1CSC2=CC=CC=C2C1=O | C9H7BrOS
reactant | 4-imidazolyl thioacetamide hydrochloride | Cl.N1C=NC(=C1)CC(=S)N
product | 2-(4-Imidazolylmethyl)-4H-[1]benzothiopyrano[4,3-d]-thiazole | N1C=NC(=C1)CC=1SC2=C(N1)C1=C(SC2)C=CC=C1 | C14H11N3S2
